US07662972B2
Step 4: Production of 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-N-(2,2,2-trifluoroethyl)benzoic acid amide
In a solution of 0.29 g of 2,2,2-trifluoroethylamine and 0.37 g of triethylamine in 20 ml of chloroform, 1.81 g of the crude 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]benzoic acid chloride dissolved in 10 ml of chloroform was added dropwise with cooling with ice and with stirring. After the completion of addition dropwise, the mixture was continued to stir at room temperature further for 30 minutes. After the completion of the reaction, the reaction mixture was poured in 100 ml of water, and extracted with chloroform (20 ml×3), the organic phase was washed with water, dehydrated with saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate, and passed through a glass filter packed with silica gel, and then the solvent was distilled off under reduced pressure. The residual solid was washed with hexane to obtain 1.05 g of the aimed product as white crystal.

reactant | triethylamine | 0.37 g | C(C)N(CC)CC | C6H15N
reactant | 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]benzoic acid chloride | 1.81 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC=C(C(=O)Cl)C=C1)C(F)(F)F | C17H9Cl3F3NO2
reactant | 2,2,2-trifluoroethylamine | 0.29 g | FC(CN)(F)F | C2H4F3N
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 100 ml | O | H2O
product | 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-N-(2,2,2-trifluoroethyl)benzoic acid amide | 1.05 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC=C(C(=O)NCC(F)(F)F)C=C1)C(F)(F)F | C19H12Cl2F6N2O2
